US05719152
7) 2-(4-Ethoxycarbonylbutyl)-4-tert-butoxycarbonylaminomethylaniline
A solution of ethyl 5-(5-tert-butoxycarbonylaminomethyl-2-nitrophenyl)pent-4-enoate (560 mg, 1.48 mmol) in ethyl acetate (20 mL) was hydrogenated over platinum oxide (100 mg) under atmospheric pressure of hydrogen at room temperature for 2.5 h. The mixture was passed through celite and the filtrate was concentrated to give 560 mg of the title compound (100%).

reactant | ethyl 5-(5-tert-butoxycarbonylaminomethyl-2-nitrophenyl)pent-4-enoate | 1.48 mmol, 560 mg | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C1)C=CCCC(=O)OCC)[N+](=O)[O-] | C19H26N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 100 mg | [Pt]=O
product | 2-(4-Ethoxycarbonylbutyl)-4-tert-butoxycarbonylaminomethylaniline | 560 mg, 100% | C(C)OC(=O)CCCCC1=C(N)C=CC(=C1)CNC(=O)OC(C)(C)C | C19H30N2O4
